US07244843B2
1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (from Isomer B, 93 mg, 0.30 mmol) and 10% palladium on carbon (40 mg) in EtOAc (9 ml) was stirred under a balloon of hydrogen. After 3 days the reaction was about 60% complete by HPLC. The catalyst was filtered off and then fresh catalyst added. After stirring an additional day under a balloon of hydrogen, the reaction was filtered through Celite® rinsing with EtOAc and methanol to afford 56 mg of crude product. Column purification (Chiralcel OD, 15% 1/1 MeOH/EtOH in hexanes) afforded pure (4R,11aR)-1,2,3,4,11,11a-hexahydro-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (18 mg, 28% yield). MS (ESI) 217 (M+H). Further elution afforded pure (4S,11aS)-1,2,3,4,11,11a-hexahydro-4-methyl-pyrazino[1,2-b]isoquinolin-6-one (16 mg, 25% yield). MS (ESI) 217 (M+H).

reactant | 1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one | 0.30 mmol, 93 mg | C(C1=CC=CC=C1)N1CC2N(C(C=3C=CC=CC3C2)=O)C(C1)C | C20H22N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | EtOAc | 9 ml | CCOC(=O)C | C4H8O2
product | (4R,11aR)-1,2,3,4,11,11a-hexahydro-4-methyl-pyrazino[1,2-b]isoquinolin-6-one | 18 mg, 28% yield | C[C@@H]1CNC[C@@H]2N1C(C=1C=CC=CC1C2)=O | C13H16N2O
